US04735952
A solution of phenyl chlorocarbonate (17.3 g) in dry methylene chloride (40 ml) was dropwise added to a stirred solution of 4-chloro-1-methylpiperidine (13.3 g) in dry methylene chloride (60 ml) under ice-cooling over a period of 5 minutes. The resultant mixture was stirred at the same temperature for 30 minutes and then at room temperature for 6 hours. The mixture was washed with water, dried over magnesium sulfate, and concentrated in vacuo to give an oil, which was distilled to give phenyl 4-chloro-1-piperidine-carboxylate (17.0 g) as a colourless oil.

reactant | phenyl chlorocarbonate | 17.3 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 4-chloro-1-methylpiperidine | 13.3 g | ClC1CCN(CC1)C | C6H12ClN
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | phenyl 4-chloro-1-piperidine-carboxylate | 17.0 g | ClC1CCN(CC1)C(=O)OC1=CC=CC=C1 | C12H14ClNO2
